US07307075B2
(R)-4-[3-(3-Butyl-8-azabicyclo[3.2.1]oct-8-yl)-2-methylpropyl]-6-methyl-4H-benzo[1,4]oxazin-3-one (101IS71-B3)
Crude (S)-4-(3-iodo-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one (0.19 g, 0.54 mmol), Et3N (0.5 mL) and 3-butyl-8-azabicyclo[3.2.1]octane (0.10 g, 0.61 mmol) were reacted according to GP17. Flash CC (SiO2; CH2Cl2/i-PrOH 92:8) gave the title compound (0.13 g, 62%). 1H NMR (CD3OD) δ 7.05 (s, 1H), 6.86 (d, J=8.4 Hz, 1 H), 6.81 (dm, J=8.4 Hz, 1H), 4.52 (ABq J=14.8, 24.8 Hz, 2H), 4.05 (dd, J=5.6, 14.0 Hz, 1H), 3.94 (dd, J=8.8, 14.0 Hz, 1H), 3.05-3.16 (m, 2H), 2.35-2.14 (m, 2H), 2.31 (s, 3H), 2.05-1.78 (m, 3H), 1.63-1.40 (m, 5H), 1.36-1.12 (m, 5H), 0.99 (d, J=6.4 Hz, 3H), 0.90 (t, J=6.8 Hz, 3H); 13C NMR (CD3OD) δ 167.4, 144.9, 133.7, 129.2, 125.6, 117.7, 117.3, 68.5,63.2 (br),62.5(br), 56.0(Br), 43.3, 37.8 (br), 31.3, 30.5, 30.0, 28.3, 26.7, 26.4, 23.7, 21.0, 16.8, 14.2.

reactant | (S)-4-(3-iodo-2-methylpropyl)-6-methyl-4H-benzo[1,4]oxazin-3-one | 0.54 mmol, 0.19 g | IC[C@H](CN1C(COC2=C1C=C(C=C2)C)=O)C | C13H16INO2
reactant | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
reactant | 3-butyl-8-azabicyclo[3.2.1]octane | 0.61 mmol, 0.10 g | C(CCC)C1CC2CCC(C1)N2 | C11H21N
solvent | CH2Cl2 i-PrOH | C(Cl)Cl.CC(C)O
product | (R)-4-[3-(3-Butyl-8-azabicyclo[3.2.1]oct-8-yl)-2-methylpropyl]-6-methyl-4H-benzo[1,4]oxazin-3-one | 0.13 g, 62% | C(CCC)C1CC2CCC(C1)N2C[C@H](CN2C(COC1=C2C=C(C=C1)C)=O)C | C24H36N2O2
